US06492562B1
3-Phthalimidopropanal was prepared by addition of phthalimide to acrolein in the presence of tetrabutylammonium hydroxide according to the procedure described by R. O. Atkinson & F. Poppelsdorf, J Chem. Soc. (1952) 2448. 1H-NMR (CDCl3, 400 MHz): δ 9.82 (t, 1H, J=2); 7.85 (m, 2H); 7.72 (m, 2H); 4.04 (t, 2H, J=7); 2.88 (dt, 2H, J=2, 7). 13C-NMR (CDCl3, 100 MHz): δ 199.36, 167.98, 134.10, 131.95, 123.36, 42.35, 31.67.

reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | acrolein | C(=O)C=C | C3H4O
reactant | tetrabutylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-Phthalimidopropanal | C1(C=2C(C(N1CCC=O)=O)=CC=CC2)=O | C11H9NO3
